US09227985B2
(4S)-2-(4-Acetyl-1,4-diazepan-1-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
To a solution of (4S)-2-(1,4-diazepan-1-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine (5.0 mg, 0.012 mmol) in methylene chloride (0.44 mL), triethylamine (8.1 μL, 0.058 mmol) was added followed by acetyl chloride (1.6 μL, 0.023 mmol) and the mixture was stirred for 5 min. The mixture was then diluted with methanol and purified by preparative LCMS using pH 10 buffer to give the title compound (3.5 mg, 64%). LCMS calc. for C26H29N6O3 (M+H)+: m/z=473.2. found: 473.3.

reactant | (4S)-2-(1,4-diazepan-1-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.012 mmol, 5.0 mg | N1(CCNCCC1)C1=NC2=CC=C(C3=C2N1[C@H](CO3)C3=NC=CC=C3)C=3C(=NOC3C)C | C24H26N6O2
reactant | triethylamine | 0.058 mmol, 8.1 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.023 mmol, 1.6 μL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 0.44 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | (4S)-2-(4-Acetyl-1,4-diazepan-1-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 3.5 mg, 64% | C(C)(=O)N1CCN(CCC1)C1=NC2=CC=C(C3=C2N1[C@H](CO3)C3=NC=CC=C3)C=3C(=NOC3C)C | C26H28N6O3
